US08183279B2
Methyl 5-[(N-methyl-N-butylamino)carbonyl]-2,4-bisbenzyloxybenzoate (4):
a solution of 55.3 g (129.4 mmol) of methyl 2,4-bisbenzyloxy-5-bromobenzoate, 2.1 g (2.6 mmol) of (1,1′-bis(diphenylphosphino)ferrocene)palladium(11) chloride, 2.9 l of carbon monoxide, 17.7 g (101.2 mmol) of triethylamine, 13.8 g (155.2 mmol) of N-methylbutylamine in 1 l of THF is treated in an autoclave for 20 h at 120° C. and 5-10 bar. The resultant solution is subsequently evaporated and crystallised from ethanol. 59 g (98%) of methyl 5-[(N-methyl-N-butylamino)carbonyl]-2,4-bisbenzyloxybenzoate; MW 461.6.

reactant | methyl 2,4-bisbenzyloxy-5-bromobenzoate | 129.4 mmol, 55.3 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C(=C1)OCC1=CC=CC=C1)Br | C22H19BrO4
reactant | carbon monoxide | 2.9 l | [C]=O | CO
reactant | triethylamine | 101.2 mmol, 17.7 g | C(C)N(CC)CC | C6H15N
reactant | N-methylbutylamine | 155.2 mmol, 13.8 g | CNCCCC | C5H13N
solvent | THF | 1 l | C1CCOC1 | C4H8O
product | Methyl 5-[(N-methyl-N-butylamino)carbonyl]-2,4-bisbenzyloxybenzoate | CN(CCCC)C(=O)C=1C(=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H31NO5
